USH0002007H1
A stirred solution of 9.0 grams (0.036 mole) of (2-chlorophenyl)(4-chlorophenyl)methanol in 90 mL of chloroform was cooled to 0° C., and 5.3 mL (0.072 mole) of thionyl chloride was added. Upon completion of the addition the reaction mixture was allowed to warm to ambient temperature, where it stirred for about 18 hours. After this time the reaction mixture was filtered and concentrated under reduced pressure. The filtrate was taken up in hexane and subjected to column chromatography on silica gel with hexane as eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 10.0 grams of (2-chlorophenyl)(4-chlorophenyl)methyl chloride. The NMR spectrum was consistent with the proposed structure.

reactant | (2-chlorophenyl)(4-chlorophenyl)methanol | 0.036 mole, 9.0 grams | ClC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)Cl | C13H10Cl2O
reactant | thionyl chloride | 0.072 mole, 5.3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 90 mL | C(Cl)(Cl)Cl | CHCl3
product | (2-chlorophenyl)(4-chlorophenyl)methyl chloride | 10.0 grams | ClC1=C(C=CC=C1)C(C1=CC=C(C=C1)Cl)Cl | C13H9Cl3
